US05728686
Diethyl [5-(3-ethyl-7-propylxanthin-1-yl)pentyl]phosphonate
The title substance was prepared from 0.0225 mol of 3-ethyl-7-propyl-xanthine and 0.027 mol of diethyl 5-bromopentanephosphonate analogously to Example 46.

reactant | 3-ethyl-7-propyl-xanthine | 0.0225 mol | C(C)N1C(NC(C=2N(C=NC12)CCC)=O)=O | C10H14N4O2
reactant | diethyl 5-bromopentanephosphonate | 0.027 mol | BrCCCCCP(OCC)(=O)OCC | C9H20BrO3P
product | Diethyl [5-(3-ethyl-7-propylxanthin-1-yl)pentyl]phosphonate | C(C)N1C(N(C(C=2N(C=NC12)CCC)=O)CCCCCP(OCC)(OCC)=O)=O | C19H33N4O5P
